US09278968B2
Under a nitrogen gas flow, to a mixture of 11.0 g of tert-butyl (4S)-4-carbamoyl-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate and 170 ml of THF were added dropwise 11.0 ml of triethylamine and 8.0 ml of trifluoroacetic anhydride under ice-cooling, followed by warming to room temperature and stirring for 30 minutes. The reaction mixture was added to water, followed by extraction with ethyl acetate. The organic layer was washed with a 10% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 8.22 g of tert-butyl (4R)-4-cyano-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl (4S)-4-carbamoyl-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 11.0 g | C(N)(=O)[C@]1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C12H22N2O4
reactant | THF | 170 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 11.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 8.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | O | H2O
product | tert-butyl (4R)-4-cyano-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 8.22 g | C(#N)[C@]1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C12H20N2O3
